US08536203B2
A mixture of 1-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)ethanone (0.485 g, 0.93 mmol), ethyl carbazate (0.11 g, 1.06 mmol) and p-toluene sulfonic acid (4 mg) in toluene (10 mL) was refluxed until distillation of water ceased. The reaction mixture was cooled to room temperature, the solvents were evaporated to dryness, and the crude solid was triturated with diethyl ether (15 mL), filtered and dried yielding (Z)-ethyl 2-(1-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)ethylidene)hydrazinecarboxylate, 0.475 g (84%).

reactant | 1-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)ethanone | 0.93 mmol, 0.485 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C(CC=1C(=NC=CC1)C(F)(F)F)=O | C28H21F3N2O5
reactant | ethyl carbazate | 1.06 mmol, 0.11 g | C(NN)(=O)OCC | C3H8N2O2
reactant | p-toluene sulfonic acid | 4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (Z)-ethyl 2-(1-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)ethylidene)hydrazinecarboxylate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])\C(\CC=1C(=NC=CC1)C(F)(F)F)=N/NC(=O)OCC | C31H27F3N4O6
